### PR TITLE
[Merged by Bors] - feat: port AlgebraicGeometry.EllipticCurve.Weierstrass

### PR DESCRIPTION
**Pull request by Multramate**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by ChrisHughes24** [comment]
I'll tag the authors @kbuzzard and @Multramate to decide on the `simp` normal form. Either `b₂` should not be marked `simp` or `variableChange_b₂`, or some other changes should be made.

**Comment by Multramate** [comment]
Apart from the unexpected need to increase `maxHeartbeats` in a new auxiliary definition `quotientSpanCXSubCXSubCAlgEquiv`, the only thing left is to deal with the issue in `CoordinateRing`, which will arise again when porting the `Point` dependent.

**Comment by ChrisHughes24** [comment]
> Apart from the unexpected need to increase `maxHeartbeats` in a new auxiliary definition `quotientSpanCXSubCXSubCAlgEquiv`, the only thing left is to deal with the issue in `CoordinateRing`, which will arise again when porting the `Point` dependent.

What is the issue in `CoordinateRing`?

**Comment by Multramate** [comment]
> > Apart from the unexpected need to increase `maxHeartbeats` in a new auxiliary definition `quotientSpanCXSubCXSubCAlgEquiv`, the only thing left is to deal with the issue in `CoordinateRing`, which will arise again when porting the `Point` dependent.
> 
> 
> 
> What is the issue in `CoordinateRing`?

It's mentioned in the comments below the porting note. Basically there's a instance unification bug in Lean 3 that made some definitions very slow, and the fix was to make `CoordinateRing` an irreducible definition locally. In Lean 4 I can't seem to add local attributes, and seems like I can't avoid making `CoordinateRing` completely reducible. It's only visible in a downstream file but it's probably good to deal with this now.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 1]
```diff
@@ -0,0 +1,995 @@
...
+  ⟨⟨default, default, default, default, default⟩⟩
+#align weierstrass_curve.inhabited WeierstrassCurve.instInhabitedWeierstrassCurve
+
+variable [CommRing R] (W : WeierstrassCurve R)
+
+section Quantity
+
+/-! ### Standard quantities -/
+
+-- porting note: removed `@[simp]`
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:127]: We need to say why are each note (does simp already do this, are you avoiding a simpNF linter error, etc?)

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 2]
```diff
@@ -0,0 +1,995 @@
...
+    h with ⟨f, g, h0, h1⟩
+  simp only [polynomial_eq, Cubic.coeff_eq_c, Cubic.coeff_eq_d] at h0 h1
+  apply_fun degree at h0 h1
+  rw [Cubic.degree_of_a_ne_zero' <| neg_ne_zero.mpr <| one_ne_zero' R, degree_mul] at h0
+  apply (h1.symm.le.trans Cubic.degree_of_b_eq_zero').not_lt
+  rcases Nat.WithBot.add_eq_three_iff.mp h0.symm with h | h | h | h
+  · rw [degree_add_eq_right_of_degree_lt] <;> simp only [h]
+  · rw [degree_add_eq_right_of_degree_lt] <;> simp only [h]
+  · rw [degree_add_eq_left_of_degree_lt] <;> simp only [h]
+  · rw [degree_add_eq_left_of_degree_lt] <;> simp only [h]
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:422]:
```suggestion
  iterate 2
    rw [degree_add_eq_right_of_degree_lt] <;> simp only [h]
  iterate 2
    rw [degree_add_eq_left_of_degree_lt] <;> simp only [h]
```

Comment (semorrison) [reply Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:422]: Also, it's easier if you put the porting notes right before the affected part of the proof, rather than before the declaration.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 3]
```diff
@@ -0,0 +1,995 @@
...
+#align weierstrass_curve.coordinate_ring.norm_smul_basis WeierstrassCurve.CoordinateRing.norm_smul_basis
+
+lemma coe_norm_smul_basis (p q : R[X]) :
+    ↑(Algebra.norm R[X] <| p • (1 : W.CoordinateRing) + q • mk W Y) =
+      mk W ((C p + C q * X) * (C p + C q * (-Y - C (C W.a₁ * X + C W.a₃)))) :=
+  AdjoinRoot.mk_eq_mk.mpr
+    ⟨C q ^ 2, by simp only [norm_smul_basis, WeierstrassCurve.polynomial]; C_simp; ring1⟩
+#align weierstrass_curve.coordinate_ring.coe_norm_smul_basis WeierstrassCurve.CoordinateRing.coe_norm_smul_basis
+
+-- porting note: BUG `cases` tactic does not modify assumptions
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:828]: Please move to identify where exactly this is failing, and restore (in comments) the original lines.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 4]
```diff
@@ -0,0 +1,995 @@
...
+          · rw [sub_sub]
+            convert (degree_sub_eq_left_of_degree_lt <| (degree_add_le _ _).trans_lt <|
+                      max_lt_iff.mpr ⟨hdpq.trans_lt _, hdq.trans_lt _⟩).trans
+              (max_eq_left_of_lt _).symm <;> rw [hdp] <;>
+              exact WithBot.coe_lt_coe.mpr <| by linarith only [hpq]
+#align weierstrass_curve.coordinate_ring.degree_norm_smul_basis WeierstrassCurve.CoordinateRing.degree_norm_smul_basis
+
+variable {W}
+
+-- porting note: replaced `dec_trivial` with explicit lemma
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:866]: Again, please move to the exact location of the regression, so it's obvious without opening mathlib3 where one should hope to write `dec_trivial`.

File: Mathlib/RingTheory/Polynomial/Quotient.lean [hunk 5]
```diff
@@ -66,6 +66,17 @@ noncomputable def quotientSpanCXSubCAlgEquiv (x y : R) :
           simp only [Ideal.map_span, Set.image_singleton]; congr 2; exact eval_C
 #align polynomial.quotient_span_C_X_sub_C_alg_equiv Polynomial.quotientSpanCXSubCAlgEquiv
 
+set_option maxHeartbeats 250000
```
Comment (semorrison) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:69]: Please use `set_option ... in`, so you don't need to set it back afterwards.

**Comment by semorrison** [comment]
I think we don't know whether this reducibility problem is still an issue at all in lean 4, so there's no point waiting on this PR. We should just be aware we may need to revisit this file when we get to the downstream ones.

I left many comments about the porting notes. If they could be fixed up, I'm otherwise happy.

File: Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean [hunk 6]
```diff
@@ -0,0 +1,993 @@
...
+
+## Main definitions
+
+ * `WeierstrassCurve`: a Weierstrass curve over a commutative ring.
+ * `WeierstrassCurve.Δ`: the discriminant of a Weierstrass curve.
+ * `WeierstrassCurve.variableChange`: the Weierstrass curve induced by a change of variables.
+ * `WeierstrassCurve.baseChange`: the Weierstrass curve base changed over an algebra.
+ * `WeierstrassCurve.twoTorsionPolynomial`: the 2-torsion polynomial of a Weierstrass curve.
+ * `WeierstrassCurve.polynomial`: the polynomial associated to a Weierstrass curve.
+ * `WeierstrassCurve.equation`: the Weirstrass equation of a Weierstrass curve.
```
Comment (semorrison) [inline Mathlib/AlgebraicGeometry/EllipticCurve/Weierstrass.lean:42]:
```suggestion
 * `WeierstrassCurve.equation`: the Weierstrass equation of a Weierstrass curve.
```

**Comment by semorrison** [comment]
bors d+
